data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccccc1C(C)O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "Cc1ccccc1C(C)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "Cc1ccccc1C(C)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1C", "products": "Cc1ccccc1C(C)O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)COC)c([Si](C)(C)C)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)c(Cl)c1=C", "products": "COC[Si](C)(C)c1cc2c(c(Cl)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CCl)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)C)c(F)c1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CCl)c([Si](C)(C)C)c(F)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1cccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1cccc(C(C)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1cccc(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1cccc(OC)c1", "products": "COc1cccc(C(C)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cccc(F)c1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1cccc(F)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1cccc(F)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1cccc(F)c1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1cccc(F)c1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1cccc(F)c1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1cccc(F)c1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2c(C)cccc2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2c(C)cccc2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2c(C)cccc2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2c(C)cccc2F)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cccc(F)c1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1cccc(F)c1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1cccc(F)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1cccc(F)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1cccc(F)c1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(F)(OC3C)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OC(C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OC(C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OC(C)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OC(C)C2O3)cc1", "products": "CC1OC2(F)OC1C1C(=O)C12"}, {"reactants": "CC1OC2(F)OC1C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(F)(OC3C)C21"}, {"reactants": "COC1([O-])C2C3OC(F)(OC3C)C21.CO", "products": "COC(=O)C1CC2OC1(F)OC2C"}]}
{"conditions": [], "steps": [{"reactants": "CC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "CC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "CC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "CC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "CC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(C)[C@H](CCl)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(C)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(C)[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(C)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "CC1[C@H](CCl)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1Cl", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)c(Cl)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)c(Cl)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)c(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)c(Cl)c1", "products": "O=C1CCN2C[C@H](OCc3ccc(Cl)c(Cl)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
